US09371321B2
Preparation 2: tert-Butyl (S)-4-(5-(1-((2-amino-5-cyano-6-methylpyrimidin-4-yl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)piperazine-1-carboxylate
To a 50 mL pear flask were added tert-butyl (S)-4-(5-(1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)piperazine-1-carboxylate (0.85 g, 2.37 mmol) and 2-amino-4-chloro-6-methylpyrimidine-5-carbonitrile (0.638 g, 3.78 mmol) in DMSO (12 mL). Triethylamine (1.65 mL, 11.8 mmol) was added to the mixture which was then heated to 85° C. for three hours. The reaction mixture was partitioned between saturated NaHCO3 and ethyl acetate. The aqueous layer was extracted with ethyl acetate. The organic layers were combined, dried over MgSO4, filtered, and concentrated. The crude product was purified by column chromatography (SiO2, 25-100% EtOAc/heptane gradient) to give the title compound as an off-white solid (0.97 g, 83%). ESI-MS m/z [M+H]+ calc'd for C25H33N9O2, 492. found 492.

reactant | tert-butyl (S)-4-(5-(1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)piperazine-1-carboxylate | 2.37 mmol, 0.85 g | N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2CCN(CC2)C(=O)OC(C)(C)C | C19H29N5O2
reactant | 2-amino-4-chloro-6-methylpyrimidine-5-carbonitrile | 3.78 mmol, 0.638 g | NC1=NC(=C(C(=N1)Cl)C#N)C | C6H5ClN4
reactant | Triethylamine | 11.8 mmol, 1.65 mL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 12 mL | CS(=O)C | C2H6OS
product | tert-Butyl (S)-4-(5-(1-((2-amino-5-cyano-6-methylpyrimidin-4-yl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)piperazine-1-carboxylate | 0.97 g, 83% | NC1=NC(=C(C(=N1)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2CCN(CC2)C(=O)OC(C)(C)C)C#N)C | C25H33N9O2
